US08106043B2
tert-Butyl 2-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl(methyl)carbamate:
To a solution of tert-butyl methyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate (0.8811 g, 2.493 mmol) in MeOH (20 mL) was added Raney-Nickel (slurry in water; 0.5 g, 2.493 mmol) followed by hydrazine hydrate (1.213 mL, 24.93 mmol). The mixture was then immersed in a preheated oil bath and refluxed for 5 minutes The solution was cooled to room temperature and filtered through a pad of Celite. The filter pad was washed with MeOH, and the crude material was concentrated. The crude material was then filtered through a silica plug (70% EtOAc/hexanes). The collected fractions were concentrated to give brown oil (0.78 g, 98%). 1H NMR (CDCl3) δ 6.64-6.58 (m, 1H), 6.45 (d, J=2.4 Hz, 1H), 6.39 (d, J=8.4 Hz, 1H), 3.53-3.50 (m, 2H), 3.39-3.28 (m, 4H), 3.01-2.98 (m, 2H), 2.90 (s, 3H), 1.45 (s, 9H); ESI-MS (m/z, %): 326, 324 (MH+, 95), 268 (100).

reactant | tert-butyl methyl(2-(7-nitro-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl)carbamate | 2.493 mmol, 0.8811 g | CN(C(OC(C)(C)C)=O)CCN1C2=C(SCC1)C=C(C=C2)[N+](=O)[O-] | C16H23N3O4S
reactant | hydrazine hydrate | 24.93 mmol, 1.213 mL | O.NN
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Raney-Nickel | 2.493 mmol, 0.5 g | [Ni] | Ni
product | tert-Butyl 2-(7-amino-2H-benzo[b][1,4]thiazin-4(3H)-yl)ethyl(methyl)carbamate | 0.78 g, 98% | NC=1C=CC2=C(SCCN2CCN(C(OC(C)(C)C)=O)C)C1 | C16H25N3O2S
